US09145404B2
41.4 g of ethyl 3-oxo-3-(6-methoxycarbonyl-2-pyridyl)propionate was dissolved in a solution consisting of 42 ml of water and 414 ml of ethyl acetate, and the obtained solution was then cooled to a temperature between 5° C. and 10° C. Thereafter, a solution obtained by dissolving 35.6 g of sulfuryl chloride in 83 ml of ethyl acetate was added dropwise to the above cooled solution over approximately 30 minutes, while stirring. Thereafter, the obtained mixture was stirred at a temperature between 10° C. and 20° C. for 1 hour. Subsequently, the reaction solution was heated up to approximately 90° C., while the solvent was distilled away from the reaction solution. The reaction solution was continuously heated at a temperature between approximately 90° C. and 100° C. for 2 hours while stirring. Thereafter, the obtained mixed suspension (containing crystals) was cooled to approximately 10° C., and it was then stirred for 1 hour, followed by filtration, so as to obtain 27.99 g of 2-(2-chloroacetyl)-6-pyridine carboxylic acid in the form of yellow-brown crystals (melting point: 184° C. to 189° C.; purity: 98% to 99%).

reactant | ethyl 3-oxo-3-(6-methoxycarbonyl-2-pyridyl)propionate | 41.4 g | O=C(CC(=O)OCC)C1=NC(=CC=C1)C(=O)OC | C12H13NO5
reactant | water | 42 ml | O | H2O
reactant | sulfuryl chloride | 35.6 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethyl acetate | 83 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 414 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-chloroacetyl)-6-pyridine carboxylic acid | 27.99 g | ClCC(=O)C1=NC(=CC=C1)C(=O)O | C8H6ClNO3
